US09169253B2
16.1 Preparation of (R)-tert-butyl 9-oxo-6,7,9a,10,11,12-hexahydro-4H-[1,4]diazepino[1,7,6-de]pyrrolo[1,2-a]quinoxaline-5(9H)-carboxylate
65 mg of (R)-tert-butyl 9-chloro-1-(pyrrolidine-2-carbonyl)-2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate was stirred together with 1.8 mg of 2′-(ditert-butylphosphino)-N,N-dimethylbiphenyl-2-amine, 2.5 mg Pd2(dba)3 and 19 mg sodium 2-methylpropan-2-olate at 100° C. over 10 hours in toluene. The reaction mixture was then cooled to room temperature and evaporated. The residue was purified by column chromatography on silica (eluent: 10-25% ethyl acetate in heptane) to yield 20 mg of the title compound as a beige solid.

reactant | (R)-tert-butyl 9-chloro-1-(pyrrolidine-2-carbonyl)-2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate | 65 mg | ClC1=CC=CC2=C1N(CCN(C2)C(=O)OC(C)(C)C)C(=O)[C@@H]2NCCC2 | C19H26ClN3O3
reactant | sodium 2-methylpropan-2-olate | 19 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 2.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2′-(ditert-butylphosphino)-N,N-dimethylbiphenyl-2-amine | 1.8 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C(C)(C)C | C22H32NP
product | (R)-tert-butyl 9-oxo-6,7,9a,10,11,12-hexahydro-4H-[1,4]diazepino[1,7,6-de]pyrrolo[1,2-a]quinoxaline-5(9H)-carboxylate | 20 mg | O=C1[C@@H]2N(C=3C=CC=C4C3N1CCN(C4)C(=O)OC(C)(C)C)CCC2 | C19H25N3O3
